US07144899B2
Step A: 2-Bromo-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]acetamide
To a stirred solution of 1-[5-chloro-2-(1H-tetraazol-1-yl)phenyl]methanamine (150 mg, 0.72 mmol) and Hünig's base (137 μL, 0.79 mmol) in anhydrous THF (3.3 mL) at 0° C. was added dropwise bromoacetyl bromide (69 μL, 0.79 mmol). The resulting orange-yellow suspension was stirred under N2 atmosphere at 0° C. for 20 min. The mixture was diluted with EtOAc and washed twice with H2O, twice with saturated aqueous NaHCO3 and once with brine. The organic layer was dried (anhydrous Na2SO4), filtered and concentrated to a brown oil. Silica gel chromatography (70% EtOAc-hexanes) afforded the title compound as a yellow oil which slowly formed a tan foam after drying in vacuo. 1H NMR (400 MHz, CDCl3): δ 8.95 (s, 1 H), 7.70 (d, J=2.2 Hz, 1 H), 7.50 (dd, J=2.0, 8.4 Hz, 1 H), 7.30 (d, J=8.4 Hz, 1 H), 7.21 (br s, 1 H), 4.29 (d, J=6.4 Hz, 2 H), 3.88 (s, 2 H).

reactant | 1-[5-chloro-2-(1H-tetraazol-1-yl)phenyl]methanamine | 0.72 mmol, 150 mg | ClC=1C=CC(=C(C1)CN)N1N=NN=C1 | C8H8ClN5
reactant | Hünig's base | 0.79 mmol, 137 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | bromoacetyl bromide | 0.79 mmol, 69 μL | BrCC(=O)Br | C2H2Br2O
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Bromo-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]acetamide | BrCC(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1 | C10H9BrClN5O
